US07265149B2
b] 6-Benzyloxy-4-methyl-1H-indole
A suspension of 6-benzyloxy-4-methyl-1H-indole-2-carboxylic acid (28 mg, 0.95 mmol) and copper chromite (19 mg, 0.06 mmol) in quinoline (1.4 ml) was heated at 230° C. (bath temp.) for 1.5 h. The mixture was poured onto 2 N HCl/ice water 1/1 and extracted three times with ethyl acetate. The combined extracts were washed with saturated aqueous NaHCO3 solution and brine and dried over sodium sulfate. Evaporation of the solvent under reduced pressure left a black oil which was purified by column chromatography (silica gel, n-heptane/AcOEt) to yield 90 mg (0.32 mmol, 34%) of the title compound as brown oil.

reactant | 6-benzyloxy-4-methyl-1H-indole-2-carboxylic acid | 0.95 mmol, 28 mg | C(C1=CC=CC=C1)OC1=CC(=C2C=C(NC2=C1)C(=O)O)C | C17H15NO3
solvent | quinoline | 1.4 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper chromite | 0.06 mmol, 19 mg | [Cr](=O)([O-])[O-].[Cu+2]
product | 6-Benzyloxy-4-methyl-1H-indole | 0.32 mmol, 90 mg, 34% | C(C1=CC=CC=C1)OC1=CC(=C2C=CNC2=C1)C | C16H15NO
